US08981085B2
N-Ethyl-N-isopropylpropan-2-amine (279 mg, 2.16 mmol) followed by cyclopentanecarbonyl chloride (143 mg, 1.08 mmol) were added dropwise to 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (200 mg, 1.08 mmol) in THF (10 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and then concentrated to dryness. The residue was triturated in water and then filtered. The solid was washed with ACN and dried under vacuum to provide N-(5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide (186 mg, 61% yield) as a solid.

reactant | N-Ethyl-N-isopropylpropan-2-amine | 2.16 mmol, 279 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cyclopentanecarbonyl chloride | 1.08 mmol, 143 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 1.08 mmol, 200 mg | ClC=1C(=C2C(=NC1)NC=C2N)F | C7H5ClFN3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide | 186 mg, 61% yield | ClC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCCC2)F | C13H13ClFN3O
